US08470859B2
5-chloro-1-[(2R)-3,4-dihydro-2H-chromen-2-ylmethyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 160, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with 1-[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrochloride to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 1-[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrochloride | Cl.O1[C@H](CCC2=CC=CC=C12)CN
product | 5-chloro-1-[(2R)-3,4-dihydro-2H-chromen-2-ylmethyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)C[C@@H]1OC2=CC=CC=C2CC1)=N)C(=O)N | InChI=1S/C16H16ClN3O2.ClH/c17-11-7-13(16(19)21)15(18)20(8-11)9-12-6-5-10-3-1-2-4-14(10)22-12;/h1-4,7-8,12,18H,5-6,9H2,(H2,19,21);1H/t12-;/m1./s1
